US06423713B1
Scheme C-6 illustrates the synthesis of the maleimide pyrazole scaffold C-63 wherein R4 is hydrogen. The synthesis starts with the condensation reaction of bromomaleic anhydride B77 with 2,4-dimethoxybenzylamine in acetic acid and acetic anhydride, giving rise to intermediate B78. The maleimide B78 is then treated with 4′-fluoroacetophenone in the presence of catalytic amount Pd2(dba)3 and sodium t-butoxide to form the fluoroacetophenone substituted maleimide B79. The B79 is treated with tert-butoxybis(dimethylamino)methane to yield the a-ketoenamine 80. The a-ketoenamine B80 is condensed with hydrazine to form the maleimide pyrazole skeleton B81. The 2,4-dimethoxybenzyl group protecting group is optionally removed with ceric ammonium nitrate (CAN) to give compound C-63.

reactant | maleimide pyrazole | N1N=CC=C1.C1(C=CC(N1)=O)=O
reactant | hydrogen | [H][H] | H2
reactant | bromomaleic anhydride | Br/C=1/C(=O)OC(\C1)=O | C4HBrO3
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 2,4-dimethoxybenzylamine | COC1=C(CN)C=CC(=C1)OC | C9H13NO2
